US07041667B1
N-(1-Benzyl-4-piperidinyl)-2-(4-methoxyphenyl)-N-methylacetamide
4-Methoxyphenylacetic acid (895 mg, 5.39 mmol), triethylamine (2.40 ml, 17.1 mmol) and 1-(3-dimethylaminopropy)-3-ethyl-carbodiimide hydrochloride (1.12 g, 5.88 mmol) were added to a solution of the title compound of preparation 7 (1.00 g, 4.90 mmol) in dichloromethane (20 ml). The mixture was stirred for 12 hours at room temperature, then partitioned between dichloromethane and water. The aqueous layer was separated and extracted with dichloromethane (2×). The combined organic extracts were washed with brine, dried (MgSO4), filtered and evaporated under reduced pressure. The residual yellow oil was purified by column chromatography on silica gel using ethyl acetate:methanol (90:10) as eluant to afford the title compound as a clear oil, 1.26 g.

reactant | 4-Methoxyphenylacetic acid | 5.39 mmol, 895 mg | COC1=CC=C(C=C1)CC(=O)O | C9H10O3
reactant | triethylamine | 17.1 mmol, 2.40 ml | C(C)N(CC)CC | C6H15N
reactant | 1-(3-dimethylaminopropy)-3-ethyl-carbodiimide hydrochloride | 5.88 mmol, 1.12 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(1-Benzyl-4-piperidinyl)-2-(4-methoxyphenyl)-N-methylacetamide | C(C1=CC=CC=C1)N1CCC(CC1)N(C(CC1=CC=C(C=C1)OC)=O)C | C22H28N2O2
